US07071175B1
Methyl chloroformate (150 pL, 1.95 mmol) was added dropwise to a solution of 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-2-ethyl-malonic acid monoethyl ester (700 mg, 1.91 mmol) and Et3N (275 μL, 1.97 mmol) in THF (15 mL) at −20° C. under nitrogen. The reaction mixture was stirred for 50 min., filtered and added dropwise to a suspension of NaBH4 (80 mg, 2.1 mmol) in THF (15 mL) at −20° C. The reaction was stirred for 16 h at room temperature. 0.2 M HCl was added followed by methylene chloride. The organic phase was washed with brine and dried. Concentration under reduced pressure followed by chromathography (toluene/EtOAc, 3:1→1:3) gave 2-(6-tert-butoxycarbonylamino pyridin-3-ylmethyl)-2-hydroxymethyl-butyric acid ethyl ester (300 mg, 45%).

reactant | Methyl chloroformate | 1.95 mmol | ClC(=O)OC | C2H3ClO2
reactant | 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-2-ethyl-malonic acid monoethyl ester | 1.91 mmol, 700 mg | C(C)OC(C(C(=O)O)(CC)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C18H26N2O6
reactant | Et3N | 1.97 mmol, 275 μL | CCN(CC)CC | C6H15N
reactant | NaBH4 | 2.1 mmol, 80 mg | [BH4-].[Na+]
reactant | HCl | 0.2 M | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(6-tert-butoxycarbonylamino pyridin-3-ylmethyl)-2-hydroxymethyl-butyric acid ethyl ester | 300 mg, 45% | C(C)OC(C(CC)(CO)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C18H28N2O5
